US06544495B1
III. Ion Exchange (Synthesis of N-Butyl-N-Cyclohexylpyrrolidinium Hydroxide)
N-butyl-N-cyclohexylpyrrolidinium iodide salt (85 gm; 0.25 mol) is dissolved in 300 ml water in a 500-ml volume plastic bottle. To the solution, 300 gm of Ion-Exchange Resin-OH (BIO RAD® AH1-X8) is added and the mixture is stirred at room temperature overnight. The mixture is filtered and the solids are rinsed with additional 85 ml of water. The original filtrate and the rinse are combined and a small amount is titrated with 0.1N HCl to indicate the presence of 0.24 mol hydroxide (0.24 mol N-butyl-N-cyclohexylpyrrolidinium hydroxide) in the solution. The synthetic procedure described above is depicted below.

reactant | N-butyl-N-cyclohexylpyrrolidinium iodide salt | 0.25 mol, 85 gm | [I-].C(CCC)[N+]1(CCCC1)C1CCCCC1
reactant | hydroxide | 0.24 mol | [OH-]
solvent | water | 300 ml | O | H2O
product | N-Butyl-N-Cyclohexylpyrrolidinium Hydroxide | [OH-].C(CCC)[N+]1(CCCC1)C1CCCCC1 | InChI=1S/C14H28N.H2O/c1-2-3-11-15(12-7-8-13-15)14-9-5-4-6-10-14;/h14H,2-13H2,1H3;1H2/q+1;/p-1
